US07704996B2
To a solution of 4-phenylpiperidine-4-carbonitrile hydrochloride (6.7 mmol) in pyridine (13 mL) is added trifluoroacetic anhydride (10 mmol) at 0° C., then the mixture is stirred at 0° C. for 1 h. The reaction mixture is diluted with water, and extracted with AcOEt. The organic extracts are successively washed with water and brine. The organic layer is dried over Na2SO4, filtered, and concentrated in vacuo to give 4-phenyl-1-(2,2,2-trifluoroacetyl)piperidine-4-carbonitrile, which is directly used for the next reaction without further purification.

reactant | 4-phenylpiperidine-4-carbonitrile hydrochloride | 6.7 mmol | Cl.C1(=CC=CC=C1)C1(CCNCC1)C#N
reactant | trifluoroacetic anhydride | 10 mmol | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 13 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-phenyl-1-(2,2,2-trifluoroacetyl)piperidine-4-carbonitrile | C1(=CC=CC=C1)C1(CCN(CC1)C(C(F)(F)F)=O)C#N | C14H13F3N2O
